US07659267B2
2-[(Cyclobutylcarbonyl)thio]benzoic acid
Thiosalicylic acid (6.17 g, 40 mmol) was suspended in tert-butylmethyl ether (100 ml) at room temperature. While stirring under ice cooling, pyridine (7.91 g, 100 mmol) and then cyclobutanecarbonyl chloride (5.00 g, 42 mmol) were dropwise added to the suspension. After the reaction mixture was stirred for 2 hours, the mixture was diluted with water and 6N hydrochloric acid was added thereto to make its liquid property acidic. The mixture was extracted (100 ml×3) with tert-butylmethyl ether-tetrahydrofuran (3:1, v/v). The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was removed by distillation to give the title compound (9.11 g, 96%). A part (1.0 g) of the compound was recrystallized from ethyl acetate-hexane to give colorless crystals (0.81 g).

reactant | Thiosalicylic acid | 40 mmol, 6.17 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | pyridine | 100 mmol, 7.91 g | N1=CC=CC=C1 | C5H5N
reactant | cyclobutanecarbonyl chloride | 42 mmol, 5.00 g | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | tert-butylmethyl ether | 100 ml | C(C)(C)(C)OC | C5H12O
solvent | water | O | H2O
solvent | hydrochloric acid | 6N | Cl | ClH
product | 2-[(Cyclobutylcarbonyl)thio]benzoic acid | 9.11 g, 96% | C1(CCC1)C(=O)SC1=C(C(=O)O)C=CC=C1 | C12H12O3S
